US04178449
4-(α,α,α-Trifluoro-m-tolyl)imidazo[1,5-a]pyrimidine-8-carbonitrile
A mixture of 0.01 mole of 3-dimethylamino-3'-(trifluoromethyl)acrylophenone and 0.01 mole of 4-amino-5-imidazolecarbonitrile in 30 ml. of glacial acetic acid is refluxed for 6 hours. The solvent is removed under reduced pressure and worked up as for Example 29 to give the product as crystals, m.p. 168°-169° C.

reactant | 3-dimethylamino-3'-(trifluoromethyl)acrylophenone | 0.01 mole | CN(C=CC(=O)C1=CC(=CC=C1)C(F)(F)F)C | C12H12F3NO
reactant | 4-amino-5-imidazolecarbonitrile | 0.01 mole | NC=1N=CNC1C#N | C4H4N4
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 4-(α,α,α-Trifluoro-m-tolyl)imidazo[1,5-a]pyrimidine-8-carbonitrile | FC(C1=CC(=CC=C1)C1=CC=NC=2N1C=NC2C#N)(F)F | C14H7F3N4
